US05166204
To 330 mg of N-benzyl carbazole-3,4-dicarboximide were added 5 ml of dioxane and 1.0 ml of a 5 N aqueous sodium hydroxide solution. The mixture was refluxed for 30 minutes. Thereto was added 3.0 ml of concentrated hydrochloric acid. The resulting mixture was refluxed for 2 hours and then cooled to room temperature. Thereto were added 30 ml of ethyl acetate and 20 ml of water. The organic layer was separated, washed with an aqueous saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. To the residue was added 3.0 ml of acetic anhydride, and the mixture was refluxed for 30 minutes and then cooled to room temperature. The precipitated crystals were collected by filtration and washed with diethyl ether to obtain 220 mg (yield: 78%) of 9-acetylcarbazole-3,4-dicarboxylic anhydride as light yellow crystals.

reactant | N-benzyl carbazole-3,4-dicarboximide | 330 mg | C(C1=CC=CC=C1)N1C(=O)C=2C=CC=3NC4=CC=CC=C4C3C2C1=O | C21H14N2O2
reactant | dioxane | 5 ml | O1CCOCC1 | C4H8O2
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
reactant | hydrochloric acid | 3.0 ml | Cl | ClH
reactant | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 20 ml | O | H2O
product | 9-acetylcarbazole-3,4-dicarboxylic anhydride | 220 mg, yield: 78% | C(C)(=O)N1C2=CC=CC=C2C=2C3=C(C=CC12)C(=O)OC3=O | C16H9NO4
